US04157399
3-dibenzylamino-2-phenyl-benzo(b)thiophene.
A mixture of 2.25 g (10 mmol) of 3-amino-2-phenyl benzo(b)thiophene, 3.8 g (22 mmol) of benzyl bromide, 3.6 g (26 mmol) of K2CO3 and 0.5 g (3.3 mmol) of NAI in 25 ml of absolute CHCl3 is refluxed with stirring for 20 hours. After cooling, it is mixed with water, the organic phase is dried and washed with water. After drying over calcium carbonate and elimination of the solvent, there remains 3-dibenzylamino-2-phenyl-benzo(b)thiophene in the form of a crude oily product which crystallises in ethanol: 2.3 g (57% of theory), colourless crystals, mp 97°-101° (ethanol).

reactant | 3-amino-2-phenyl benzo(b)thiophene | 10 mmol, 2.25 g | NC=1C2=C(SC1C1=CC=CC=C1)C=CC=C2 | C14H11NS
reactant | benzyl bromide | 22 mmol, 3.8 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 26 mmol, 3.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | CHCl3 | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-dibenzylamino-2-phenyl-benzo(b)thiophene | C(C1=CC=CC=C1)N(C=1C2=C(SC1C1=CC=CC=C1)C=CC=C2)CC2=CC=CC=C2 | C28H23NS
